US04302398
2.0 g of rac-3'-acetyl-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] were dissolved in 150 ml of benzene containing 15 ml of ethyleneglycol, 80 mg of toluene-4-sulphonic acid and 5 ml of acetone. The mixture was heated under reflux for 6 hours using a Dean-Stark water separator and then cooled to room temperature. The mixture was washed with two 100 ml portions of 10% aqueous potassium hydrogen carbonate and two 100 ml portions of water, dried over magnesium sulphate and evaporated to give a white foam. Trituration with diethyl ether gave rac-3'-(1,1-ethylenedioxyethyl)-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] in the form of colourless crystals of melting point 162.5°-163° C.

reactant | rac-3'-acetyl-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] | 2.0 g | C(C)(=O)C1(CC2(C3=C(C=CC(=C3C1)OC)OC)SCCS2)O | C16H20O4S2
reactant | toluene-4-sulphonic acid | 80 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | ethyleneglycol | C(CO)O | C2H6O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | rac-3'-(1,1-ethylenedioxyethyl)-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] | C1OC(C)(OC1)C1(CC2(C3=C(C=CC(=C3C1)OC)OC)SCCS2)O | C18H24O5S2
